US09108983B2
1-Methyl-N-phenyl-1H-pyrrolo[2,3-b]pyridin-6-amine
The procedure is in accordance with the protocol of Step B of Preparation 1″ using aniline and 5-bromo-1-methyl-1H-pyrrolo[2,3-b]pyridine (obtained in accordance with a protocol from the literature: Heterocycles, 60(4), 865, 2003).

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 5-bromo-1-methyl-1H-pyrrolo[2,3-b]pyridine | BrC=1C=C2C(=NC1)N(C=C2)C | C8H7BrN2
product | 1-Methyl-N-phenyl-1H-pyrrolo[2,3-b]pyridin-6-amine | CN1C=CC=2C1=NC(=CC2)NC2=CC=CC=C2 | C14H13N3
